US07084154B2
A solution of 3-(2-amino-ethyl)-1H-indol-5-ol (3.0 g), imidazole (9.6 g), and triisopropylsilyl chloride (4.5 mL) was stirred in 20 mL N,N-dimethylformamide for 6 h. The solution was diluted with 100 mL of ethyl acetate and washed with 100 mL of sodium carbonate and 100 mL of saturated sodium chloride (3 times). The organic phase was dried over sodium sulfate and the solvent was evaporated. Silica gel chromatography (2% methyl alcohol in dichloromethane) gave 2-(5-triisopropylsilanyloxy-1H-indol-3-yl)-ethylamine (2.6 g). This compound was cyclized with formaldehyde by Procedure OO to afford 6-triisopropylsilanyloxy-2,3,4,9-tetrahydro-1H-β-carboline, which was protected with tert-butoxycarbonyl group by Procedure CC to give 6-triisopropylsilanyloxy-1,3,4,9-tetrahydro-β-carboline-2-carboxylic acid tert-butyl ester.

reactant | 3-(2-amino-ethyl)-1H-indol-5-ol | 3.0 g | NCCC1=CNC2=CC=C(C=C12)O | C10H12N2O
reactant | imidazole | 9.6 g | N1C=NC=C1 | C3H4N2
reactant | triisopropylsilyl chloride | 4.5 mL | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-(5-triisopropylsilanyloxy-1H-indol-3-yl)-ethylamine | 2.6 g | C(C)(C)[Si](OC=1C=C2C(=CNC2=CC1)CCN)(C(C)C)C(C)C | C19H32N2OSi
